US04071625
One equivalent of Jones reagent is added dropwise to a stirred solution of 1β-methyl-5α-androstane-3β,17β,19-triol 3,17-diacetate in acetone chilled to 0° C. After 15 minutes at 0° C., the acetone layer is poured onto ice water. The solid which forms is filtered and crystallized from an ether-hexane solution to yield 3β,17β-dihydroxy-1β-methyl-5α-androstan-19-one diacetate. This material is dissolved in aqueous methanol containing sodium carbonate and the solution heated at its reflux temperature for about 4 hours. The cooled solution is poured onto water and filtered. The solid which forms is collected and is crystallized from an ether-hexane solution to yield 3β,17β-dihydroxy-1β-methyl-5α-androstan-19-one.

reactant | Jones reagent | One equivalent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 1β-methyl-5α-androstane-3β,17β,19-triol 3,17-diacetate | C(C)(=O)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2([C@@H](C1)C)CO)OC(C)=O | C24H38O5
solvent | acetone | CC(=O)C | C3H6O
product | 3β,17β-dihydroxy-1β-methyl-5α-androstan-19-one diacetate | C(C)(=O)O.C(C)(=O)O.O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2([C@@H](C1)C)C=O)O | InChI=1S/C20H32O3.2C2H4O2/c1-12-9-14(22)10-13-3-4-15-16-5-6-18(23)19(16,2)8-7-17(15)20(12,13)11-21;2*1-2(3)4/h11-18,22-23H,3-10H2,1-2H3;2*1H3,(H,3,4)/t12-,13+,14+,15+,16+,17+,18+,19+,20+;;/m1../s1
